US04778796
To a solution of 5.1 g of 5-hydroxymethyl-2-isopropylpyridine in 70 ml of chloroform, 20 g of active manganese dioxide is added, and the mixture is refluxed with stirring for 1 hour. The insoluble manganese dioxide is filtered off, and the filtrate is concentrated to give 3.7 g of crude 6-isopropyl-3-pyridinecarbaldehyde.

reactant | 5-hydroxymethyl-2-isopropylpyridine | 5.1 g | OCC=1C=CC(=NC1)C(C)C | C9H13NO
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 20 g | [O-2].[O-2].[Mn+4]
product | 6-isopropyl-3-pyridinecarbaldehyde | 3.7 g | C(C)(C)C1=CC=C(C=N1)C=O | C9H11NO
